US04209516
0.57 g (0.015 mole) of sodium borohydride is added all at once at 0°, with stirring, to the solution of 5.6 g (0.015 mole) of 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide [see Example 1a)] in 250 ml of tetrahydrofuran and 25 ml of methanol, and the whole is subsequently stirred for a further hour at room temperature. There is then slowly added dropwise, with ice-water cooling, 1N hydrochloric acid solution until the pH-value of the reaction mixture has reached 4. The mixture obtained is concentrated in vacuo to dryness. Water is added to the residue, and extraction is performed twice with ethyl acetate. The organic phase is washed once with saturated potassium bicarbonate solution, twice with water and once with saturated sodium chloride solution; it is dried over sodium sulphate and concentrated in vacuo. There is obtained amorphous 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide, which can be used directly in the next stage. On the silica gel plate, the compound has an Rf value of 0.61 in the system ethyl acetate/methanol (95:5).

reactant | sodium borohydride | 0.015 mole, 0.57 g | [BH4-].[Na+]
reactant | 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide | 0.015 mole, 5.6 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)N | C17H12Cl2N4O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
product | 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide | OC(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)N | C17H14Cl2N4O2
